US07514419B2
To a stirred solution of 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)phenylacetonitrile (0.75 g, 2.42 mmol) in acetic acid (7 mL) was added a 50% solution of H2SO4 (14 mL). The reaction mixture was heated at 105° C., for 3 h, cooled to room temperature and poured into ice water (100 mL). The mixture was stirred for 1 h and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)phenylacetic acid as a brownish solid (0.62 g, 85%, m.p.: 118-120° C.): 1H NMR (300 MHz, CDCl3): δ 7.11 (s, 2 H), 6.82 (d, J=2.7 Hz, 1 H), 6.80 (d, J=8.7 Hz, 1 H), 6.37 (dd, J=3.3, 8.7 Hz, 1 H), 3.80 (s, 3 H), 3.61 (s, 2 H), 3.38-3.25 (m, 1 H), 2.11 (s, 6 H), 1.17 (d, J=7.2 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; mobile phase=ethyl acetate-hexanes (1:1); Rf=0.2.

reactant | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)phenylacetonitrile | 2.42 mmol, 0.75 g | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)CC#N | C20H23NO2
reactant | H2SO4 | 14 mL | OS(=O)(=O)O | H2O4S
reactant | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)phenylacetic acid | 0.62 g, 85% | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)CC(=O)O | C20H24O4
